US04591625
Preparation of 4-(Diallylamino)pyridine
4-Chloropyridine (13.24 g) was refluxed with excess diallylamine (28.04 g) under a nitrogen atmosphere for 3 days. The product mixture was neutralized with aqueous NaOH and extracted with ether. After drying, the ether was removed by simple distillation and the product purified by fractional distillation under reduced pressure. The pure 4-(diallylamino)pyridine (DAAP) was characterized by elemental analysis, FTIR, 13C NMR, and GC.

reactant | 4-Chloropyridine | 13.24 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | diallylamine | 28.04 g | C(C=C)NCC=C | C6H11N
reactant | NaOH | [OH-].[Na+]
product | 4-(Diallylamino)pyridine | C(C=C)N(C1=CC=NC=C1)CC=C | C11H14N2
